US06825181B1
Step 3: Synthesis of t-butyl (2-chloroethyl)carbamate:
28.7 g (249 mmol) of 2-chloroethylamine hydrochloride was dissolved in 300 ml of dichloromethane. 41 g (192 mmol) of di-t-butyl dicarbonate and 80 ml (576 mmol) of triethylamine were added to the obtained solution, and they were stirred overnight. After the treatment with dichloromethane as the extraction solvent in an ordinary manner, the title compound was obtained.

reactant | 2-chloroethylamine hydrochloride | 249 mmol, 28.7 g | Cl.ClCCN
reactant | di-t-butyl dicarbonate | 192 mmol, 41 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 576 mmol, 80 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | t-butyl (2-chloroethyl)carbamate | ClCCNC(OC(C)(C)C)=O | C7H14ClNO2
